US04025349
EXAMPLE 14 2-[(1-Ethyl-2(1H)quinolylidene)-2-bromo-1-hydroxyethylidene]indan-1,3-dione hydrotribromide
A suspension of 2-[(1-ethyl-2(1H)-quinolylidene)-1-hydroxyethylidene]indan-1,3-dione (1.72 g, 0.005 mol) in methylene chloride (25ml) is stirred as bromine (1.76 g, 0.011 mol) in methylene chloride is added in one lot. The solid dissolves initially, and a new solid precipitates. After 5 minutes the product is collected and washed with methylene chloride. Yield 3.25 g (98%)

reactant | 2-[(1-ethyl-2(1H)-quinolylidene)-1-hydroxyethylidene]indan-1,3-dione | 0.005 mol, 1.72 g | C(C)N1C(C=CC2=CC=CC=C12)=CC(O)=C1C(C2=CC=CC=C2C1=O)=O | C22H17NO3
reactant | bromine | 0.011 mol, 1.76 g | BrBr | Br2
solvent | methylene chloride | 25ml | C(Cl)Cl | CH2Cl2
product | 2-[(1-Ethyl-2(1H)quinolylidene)-2-bromo-1-hydroxyethylidene]indan-1,3-dione | C(C)N1C(C=CC2=CC=CC=C12)=C(C(O)=C1C(C2=CC=CC=C2C1=O)=O)Br | C22H16BrNO3
